US06716961B2
N-(2-hydroxyethyl)-4-nitrobenzenesulfonamide
To a solution of ethanolamine (0.68 g, 11 mmol) and triethylamine (1.10 g, 10.9 mmol) in dichloromethane (20 mL) was added 4-nitrobenzenesulfonyl chloride (2.20 g, 9.9 mmol) portionwise with stirring. The resulting clear yellow solution was stirred at room temperature for 15 min. The clear yellow solution was diluted with equal volume of EtOAc and washed with water and then with 5% HCl. The organic phase was evaporated to dryness to give 1.36 g of light yellow crystalline solid which was dried and used without further purification. δH (200 MHz, DMSO-d6) 2.90 [2H, m, NHCH2CH2OH], 3.36 [2H, m, NHCH2CH2OH], 4.75 [1H, t, OH], 8.00 [1H, m, NH], 8.02 and 8.38 [2×2H, q (A2B2), 2×Nosyl CH].

reactant | ethanolamine | 11 mmol, 0.68 g | C(O)CN | C2H7NO
reactant | triethylamine | 10.9 mmol, 1.10 g | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzenesulfonyl chloride | 9.9 mmol, 2.20 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-hydroxyethyl)-4-nitrobenzenesulfonamide | 1.36 g | OCCNS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O5S
